US05641785
6.3. 6-Methoxy-2-methoxycarbonylquinoline
230 ml (3.17 mol) of thionyl chloride are run dropwise onto a suspension of 129 g (0.635 mol) of 2-carboxy-6-methoxyquinoline in 1200 ml of toluene, and the mixture is heated for 3 h 30 min. After concentrating the solution under reduced pressure, the solid obtained is dissolved in 300 ml of methanol. The mixture is stirred for 30 min, the solvent is then evaporated off under reduced pressure, and the product obtained is taken up in diethyl ether and isolated by filtration. The solid obtained is taken up in ethyl acetate and dilute aqueous ammonia, and the organic phase is then separated out, treated with animal black, filtered and concentrated under reduced pressure. 90 g of product are thus obtained.

reactant | thionyl chloride | 3.17 mol, 230 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-carboxy-6-methoxyquinoline | 0.635 mol, 129 g | C(=O)(O)C1=NC2=CC=C(C=C2C=C1)OC | C11H9NO3
reactant | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 300 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Methoxy-2-methoxycarbonylquinoline | 90 g | COC=1C=C2C=CC(=NC2=CC1)C(=O)OC | C12H11NO3
